US07902367B2
Step 69a) 1-(tert-Butoxycarbonyl)-N-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]piperidine-3-carboxamide
Using 5-amino-2-(4-chlorophenyl)-4-methylthiazole (197 mg, 0.877 mmol) and 1-(tert-butoxycarbonyl)nipecotic acid (205 mg, 0.877 mmol), the same procedure was followed as in Step 3a of Example 3 to give 115 mg (30%) of the desired compound as a yellow powder.

reactant | 5-amino-2-(4-chlorophenyl)-4-methylthiazole | 0.877 mmol, 197 mg | NC1=C(N=C(S1)C1=CC=C(C=C1)Cl)C | C10H9ClN2S
reactant | 1-(tert-butoxycarbonyl)nipecotic acid | 0.877 mmol, 205 mg | C(C)(C)(C)OC(=O)N1CC(C(=O)O)CCC1 | C11H19NO4
product | 1-(tert-Butoxycarbonyl)-N-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]piperidine-3-carboxamide | 115 mg, 30% | C(C)(C)(C)OC(=O)N1CC(CCC1)C(=O)NC1=C(N=C(S1)C1=CC=C(C=C1)Cl)C | C21H26ClN3O3S
